US05104888
Ethyl 6-methoxymethoxy-5,7,8-trimethyl-2-octylchroman-2-carboxylate (Step C6)
7.8 ml of a hexane solution containing 1.62 mmole/ml of butyllithium were added dropwise to a mixture of 2 g of diisopropylamine and 80 ml of tetrahydrofuran under a nitrogen stream at a temperature from -60° to -50° C. The resulting mixture was then allowed to stand for 10 minutes at room temperature, after which about 10 ml of tetrahydrofuran containing 4 g of ethyl 6-methoxymethoxy-5,7,8-trimethylchroman-2-carboxylate (prepared as described in Preparation 11) were added and the mixture was stirred for 1 hour at -60° C. About 20 ml of tetrahydrofuran containing 5 g of octyl bromide were added, and the mixture was stirred for 1 hour at -60° C. and then for 1 hour at room temperature, after which it was heated for 1 hour at 50° C. The reaction mixture was then poured into ice-water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was subjected to silica gel column chromatography eluted with benzene, to give the title compound.

reactant | butyllithium | 1.62 mmole/ml | C(CCC)[Li]
reactant | diisopropylamine | 2 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 6-methoxymethoxy-5,7,8-trimethylchroman-2-carboxylate | COCOC=1C(=C2CCC(OC2=C(C1C)C)C(=O)OCC)C | C17H24O5
reactant | octyl bromide | C(CCCCCCC)Br | C8H17Br
solvent | tetrahydrofuran | 20 ml, 5 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | about 10 ml, 4 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | 7.8 ml | CCCCCC | C6H14
product | Ethyl 6-methoxymethoxy-5,7,8-trimethyl-2-octylchroman-2-carboxylate | COCOC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)OCC)CCCCCCCC)C | C25H40O5
